US06107458
A mixture of 4-bromo-4'-pentylbiphenyl (5.0 g), methyl acrylate (2.2 ml), palladium acetate (0.11 g) and tris(o-tolyl)phosphine (0.60 g) in triethylamine (16 ml) was refluxed for 15 hours under nitrogen atmosphere. The reaction mixture was poured into a mixture of cold water and ethyl acetate, and adjusted to about pH 1.5 with 6N hydrochloric acid. The separated organic layer was washed in turn with water and brine, and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give a crude powder, which was subjected to column chromatography on silica gel (200 ml), and eluted with a mixture of (n-hexane:ethyl acetate=100:0-93:6, V/V) to give Methyl 3-[4-(4-pentylphenyl)phenyl]acrylate (4.48 g).

reactant | 4-bromo-4'-pentylbiphenyl | 5.0 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC | C17H19Br
reactant | methyl acrylate | 2.2 ml | C(C=C)(=O)OC | C4H6O2
reactant | tris(o-tolyl)phosphine | 0.60 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.11 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Methyl 3-[4-(4-pentylphenyl)phenyl]acrylate | 4.48 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C=CC(=O)OC | C21H24O2
